US06441180B1
A mixture of zinc dust (330 mg, 5 mmol, Aldrich, −325 mesh) and dry tetrahydrofuran (1 mL) under argon was treated with 1,2-dibromoethane (187 mg, 1 mmol). The zinc suspension was then heated with a heat gun to ebullition, allowed to cool, and heated again. This process was repeated three times to make sure the zinc dust was activated. The activated zinc dust suspension was then treated with trimethylsilyl chloride (108 mg, 1 mmol), and the suspension was stirred for 15 min at 25° C. The reaction mixture was then treated dropwise with a solution of (E)-4-cyclopentyl-2-iodo-but-2-enoic acid methyl ester (590 mg, 2 mmol) in dry tetrahydrofuran (1 mL). After the addition, the reaction mixture was stirred for 1 h at 40-45° C. and then stirred overnight at 25° C. The reaction mixture was then diluted with dry tetrahydrofuran (3 mL), and the stirring was stopped to allow the excess zinc dust to settle down (2 h). In a separate reaction flask, bis(dibenzylideneacetone)palladium(0) (38 mg, 0.07 mmol) and triphenylphosphine (73 mg, 0.28 mmol) in dry tetrahydrofuran (7 mL) was stirred at 25° C. under argon for 10 min and then treated with 1-(4-bromo-2-trifluoromethyl-phenyl)-5-methyl-1 H-tetrazole (350 mg, 1.4 mmol) and the freshly prepared zinc compound in tetrahydrofuran. The resulting brick red solution was heated at 45-50° C. for 20 h. The reaction mixture was cooled to 25° C. and then poured into a saturated aqueous ammonium chloride solution (30 mL), and the organic compound was extracted into ethyl acetate (3×25 mL). The combined organic extracts were washed with a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 4/1 to 1/1 hexanes/ethyl acetate) afforded (E)-4-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-but-2-enoic acid methyl ester (360 mg, 65%) as an amorphous white solid: EI-HRMS m/e calcd for C19H21F3N4O2 (M+) 394.1617, found 394.1621.

reactant | 1,2-dibromoethane | 1 mmol, 187 mg | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 1 mmol, 108 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | (E)-4-cyclopentyl-2-iodo-but-2-enoic acid methyl ester | 2 mmol, 590 mg | COC(/C(=C\CC1CCCC1)/I)=O | C10H15IO2
reactant | triphenylphosphine | 0.28 mmol, 73 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(4-bromo-2-trifluoromethyl-phenyl)-5-methyl-1 H-tetrazole | 1.4 mmol, 350 mg | BrC1=CC(=C(C=C1)N1N=NN=C1C)C(F)(F)F | C9H6BrF3N4
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
catalyst | zinc | 5 mmol, 330 mg | [Zn] | Zn
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.07 mmol, 38 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (E)-4-cyclopentyl-2-[4-(5-methyl-tetrazol-1-yl)-3-trifluoromethyl-phenyl]-but-2-enoic acid methyl ester | 360 mg, 65% | COC(\C(=C\CC1CCCC1)\C1=CC(=C(C=C1)N1N=NN=C1C)C(F)(F)F)=O | C19H21F3N4O2
